US08865675B2
Synthesis of (6Z,9Z,27Z,30Z)-19-hydroxyhexatriaconta-6,9,27,30-tetraen-18-one
To a 500 mL round bottom flask, purged with nitrogen, was added anhydrous toluene (70 mL) followed by finely sliced pieces of sodium metal (425 g, 185 mmol). chlorotrimethylsilane (17 mL, 136.1 mmol) was added slowly and the reaction was heated to 40° C. To this solution was added methyl linoleate (10 g, 32.4 mmol) drop wise over 45 minutes. The solution was brought to reflux for 2 hours where upon the sodium changed from a large mass to small 1-2 mm beads (reaction turned purple after ˜1.5 hours). The reaction was cooled to room temperature and slowly quenched with methanol (25 mL) at 0° C. over 30 minutes. Once the unreacted sodium metal had dissolved, the reaction mixture was filtered through celite with ether rinses (400 mL). The filtrate (˜400-500 mL) was stirred vigorously with saturated ammonium chloride (300 mL) for 16 hours. Upon completion, the ether/toluene layer was separated and washed with brine (1×100 mL). The organic layer was dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The yellow oil was purified by column chromatography (gradient: 100% Hexanes to 5% EtOAc in hexanes) to afford the title compound as a pale yellow oil (4.8 g, 56%).

reactant | sodium | 185 mmol, 425 g | [Na] | Na
reactant | chlorotrimethylsilane | 136.1 mmol, 17 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | methyl linoleate | 32.4 mmol, 10 g | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)OC | C19H34O2
product | (6Z,9Z,27Z,30Z)-19-hydroxyhexatriaconta-6,9,27,30-tetraen-18-one | 4.8 g, 56% | OC(C(CCCCCCC\C=C/C\C=C/CCCCC)=O)CCCCCCC\C=C/C\C=C/CCCCC | C36H64O2
